US06500863B1
N-[3-(N″-allylaminosulfonyl)4-chloro-2-hydroxyphenyl]-N′-(2,3-dichlorophenyl) urea
A solution of crude N-allyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide (20 mg) and 2,3-dichlorophenylisocyanate (12 μL, 0.09 mmol) in 1 mL of N,N-dimethylformamide was stirred at room temperature for 20 hours. The mixture was diluted with ethyl acetate and washed with water to give the crude material. Purification by column chromatography on silica gel, eluting with ethyl acetate/hexane (30/70, v/v), gave the desired product (10 mg, 29% for two steps). EI-MS (m/z) 450.2, 452.2, 454.1 (M−).

reactant | N-allyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 20 mg | C(C=C)NS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C9H11ClN2O3S
reactant | 2,3-dichlorophenylisocyanate | 0.09 mmol, 12 μL | ClC1=C(C=CC=C1Cl)N=C=O | C7H3Cl2NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-(N″-allylaminosulfonyl)4-chloro-2-hydroxyphenyl]-N′-(2,3-dichlorophenyl) urea | 10 mg, 29% | C(C=C)NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC1=C(C(=CC=C1)Cl)Cl)O | C16H14Cl3N3O4S
